US09145387B2
To a solution of 2,4-dichloro-N-methylpyrimidine-5-carboxamide (400 mg, 1.95 mmol) in NMP (1 ml), N-(2-aminophenyl)acrylamide (316 mg, 1.951 mmol) and DIPEA (503 mg, 3.902 mmol) were added and heated at 120° C. for 1 h. TLC showed completion of starting material (TLC system: 5% methanol in DCM (Rf): 0.3). The reaction mixture was diluted with water (30 ml) and extracted with ethyl acetate (3×15 ml). The organic layer was separated, dried over sodium sulphate, and concentrated. Crude compound was purified by column chromatography using silica gel (100-200 mesh) with 2% methanol in DCM to obtain 4-(2-acrylamidophenylamino)-2-chloro-N-methylpyrimidine-5-carboxamide as an off white solid. Yield: (180 mg, 28%). MS: m/z 332.1 (ES+, M+H).

reactant | 2,4-dichloro-N-methylpyrimidine-5-carboxamide | 1.95 mmol, 400 mg | ClC1=NC=C(C(=N1)Cl)C(=O)NC | C6H5Cl2N3O
reactant | N-(2-aminophenyl)acrylamide | 1.951 mmol, 316 mg | NC1=C(C=CC=C1)NC(C=C)=O | C9H10N2O
reactant | DIPEA | 3.902 mmol, 503 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | methanol | CO | CH4O
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | 4-(2-acrylamidophenylamino)-2-chloro-N-methylpyrimidine-5-carboxamide | C(C=C)(=O)NC1=C(C=CC=C1)NC1=NC(=NC=C1C(=O)NC)Cl | C15H14ClN5O2
